US07119201B2
5-(Methoxy-methyl)-5-{4-[4-(4-(4-fluorophenyl)-oxazol-2-yl)-phenoxy]-phenoxy}-pyrimidine-2,4,6-trione
Sodium (210 mg, 9.1 mmol) was dissolved in dry ethanol (18 mL). Urea (328 mg, 5.46 mmol) and diethyl 2-(Methoxy-methyl)-2-{4-[4-(4-(4-fluorophenyl)-oxazol-2-yl)-phenoxy]-phenoxy}-malonate (1.0 g, 1.82 mmol) were added and the solution refluxed for 6 hours. The cooled mixture was diluted with ethyl ether and was with water and 2N sodium hydroxide solution. The combined aqueous layers were acidified with hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine and dried over sodium sulfate. Filtration and concentration gave 179 mg of crude product which was chromatographed yielding 86 mg of the title compound as a white solid. LC-MS (m/z, APCI): 518 [M+H]+.

reactant | Sodium | 9.1 mmol, 210 mg | [Na] | Na
reactant | Urea | 5.46 mmol, 328 mg | NC(=O)N | CH4N2O
reactant | diethyl 2-(Methoxy-methyl)-2-{4-[4-(4-(4-fluorophenyl)-oxazol-2-yl)-phenoxy]-phenoxy}-malonate | 1.82 mmol, 1.0 g | COCC(C(=O)OCC)(C(=O)OCC)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C=1OC=C(N1)C1=CC=C(C=C1)F | C30H28FNO8
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 18 mL | C(C)O | C2H6O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 5-(Methoxy-methyl)-5-{4-[4-(4-(4-fluorophenyl)-oxazol-2-yl)-phenoxy]-phenoxy}-pyrimidine-2,4,6-trione | 86 mg | COCC1(C(NC(NC1=O)=O)=O)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C=1OC=C(N1)C1=CC=C(C=C1)F | C27H20FN3O7
